US07790747B2
(3-{4-[(6-Cyano-pyridin-2-ylmethyl)-amino]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester (0.067 g, 0.17 mmol) and ethyl isocyanate (20 μL, 0.25 mmol) were combined in 1,2-dichloroethane (5 ml) and the resulting mixture was stirred at 55° C. for 16 h. The solvent was removed in vacuo and the crude residue was purified by column chromatography on silica gel (CH2Cl2:MeOH:NH4OH, 93:6:1, v/v/v) to give (3-{4-[1-(6-cyano-pyridin-2-ylmethyl)-3-ethyl-ureido]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester (0.075 g, 95%) as a white foam. 1H NMR (CDCl3) δ 0.93 (d, 3H, J=6.0 Hz), 1.12 (t, 3H, J=7.5 Hz), 1.40 (s+m, 13H), 1.65 (m, 1H), 1.92 (m, 2H), 2.18 (br t, 1H, J=9.0 Hz), 2.52 (m, 2H), 2.69-2.85 (m, 3H), 3.09 (m, 1H), 3.21-3.33 (m, 3H), 4.12 (m, 1H), 4.44 (s, 2H), 5.33 (br s, 1H), 5.95 (br s, 1H), 7.57 (d, 1H, J=9.0 Hz), 7.61 (d, 1H, J=9.0 Hz), 7.83 (t, 1H, J=7.5 Hz).

reactant | (3-{4-[(6-Cyano-pyridin-2-ylmethyl)-amino]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester | 0.17 mmol, 0.067 g | C(C)(C)(C)OC(NCCC(C)N1CCC(CC1)NCC1=NC(=CC=C1)C#N)=O | C21H33N5O2
reactant | ethyl isocyanate | 0.25 mmol, 20 μL | C(C)N=C=O | C3H5NO
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | (3-{4-[1-(6-cyano-pyridin-2-ylmethyl)-3-ethyl-ureido]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester | 0.075 g, 95% | C(C)(C)(C)OC(NCCC(C)N1CCC(CC1)N(C(=O)NCC)CC1=NC(=CC=C1)C#N)=O | C24H38N6O3
